US06011149
Preparation of 4-[(2,5-dihydro-3,4-dimethyl-2,5-dioxo-pyrrol-1-yl)methyl]-benzoic acid chloride
100 g (0.66 mol) of 4-(aminomethyl)-benzoic acid are dissolved in sodium hydroxide solution (26.4 g of NaOH in 300 ml of water). There is added dropwise to that solution, with stirring, a solution of 83.3 g of dimethylmaleic acid anhydride in 500 ml of dimethylacetamide. The reaction solution is then heated at 90° C. and, after 1.5 hours, 330 ml of aqueous hydrochloric acid (2N) are added. After the addition of hydrochloric acid the solution is cooled to room temperature and the stirrer is switched off. The crystalline product that has precipitated is filtered off, washed with water and dried in vacuo at 60° C. Yield: 155 g (90%). Melting point: 182-183° C. 120 g of that intermediate are suspended in 1000 ml of dry toluene. At 70° C., 50 ml of thionyl chloride are added dropwise. As soon as the evolution of gas has ceased (approx. 2 hours), the temperature is increased to 80° C. for 2 hours. After cooling, the solution is concentrated. The solid residue is recrystallised in toluene and then dried at 60° C. Yield: 155 g (80%). Melting point: 98-99° C. 1H-NMR (CDCl3): 1.98 (s, CH3), 4.72 (s, CH2), 7.45 (d, phenyl), 8.06 (d, phenyl).

reactant | 4-(aminomethyl)-benzoic acid | 0.66 mol, 100 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | dimethylmaleic acid anhydride | 83.3 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
reactant | hydrochloric acid | 2N, 330 ml | Cl | ClH
solvent | sodium hydroxide | 300 ml, 26.4 g | [OH-].[Na+]
solvent | dimethylacetamide | 500 ml | CC(=O)N(C)C | C4H9NO
product | 4-[(2,5-dihydro-3,4-dimethyl-2,5-dioxo-pyrrol-1-yl)methyl]-benzoic acid chloride | CC=1C(N(C(C1C)=O)CC1=CC=C(C(=O)Cl)C=C1)=O | C14H12ClNO3
